US08664220B2
Step 1: N-(1-{4′-[3-Methyl-4-(5-phenyl-[1,3,4]oxadiazol-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide
Prepared according to the procedure described in Example 166, Step 3, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine and N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1OC(=NN1)C1=CC=CC=C1 | C18H13BrN4O2
reactant | N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
product | N-(1-{4′-[3-Methyl-4-(5-phenyl-[1,3,4]oxadiazol-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | CC1=NOC(=C1NC=1OC(=NN1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C | C29H25N5O5S
